US07183287B2
Preparation of 5-chloro-6-[(2,4-difluorobenzyl)oxy]-3-(5-{[(3R)-3-hydroxypyrrolidin-1-yl]carbonyl}-2-methylphenyl)pyrimidin-4(3H)-one
The title compound was prepared using a procedure similar to that used in Step 4 of the synthesis of 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[1-(aminocarbonyl)methyl]-4-methylbenzamide by substituting (R)-(+)-3-pyrrolidinol for glycineamide HCl. 1H NMR (CD3OD/400 MHz) δ8.31 (d, 1H, J=7.6 Hz), 7.62 (m, 2H), 7.52 (m, 2H), 7.01 (m, 2H), 5.51 (m, 2H), 4.42 (m, 1H), 3.65 (m, 4H), 2.19 (s, 3H), 2.00 (m, 2H). ESHRMS m/z 476.1175 (M+H calculated for C23H21ClF2N3O4 requires 476.1183).

reactant | 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[1-(aminocarbonyl)methyl]-4-methylbenzamide | ClC1=C(N=CN(C1=O)C=1C=C(C(=O)NCC(=O)N)C=CC1C)OCC1=C(C=C(C=C1)F)F | C21H17ClF2N4O4
reactant | glycineamide HCl | Cl.NCC(=O)N
product | 5-chloro-6-[(2,4-difluorobenzyl)oxy]-3-(5-{[(3R)-3-hydroxypyrrolidin-1-yl]carbonyl}-2-methylphenyl)pyrimidin-4(3H)-one | ClC=1C(N(C=NC1OCC1=C(C=C(C=C1)F)F)C1=C(C=CC(=C1)C(=O)N1C[C@@H](CC1)O)C)=O | C23H20ClF2N3O4
